US08217064B2
Ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate (1 g, 2.2 mmol) was dissolved in a mixture of MeCN/H2O/HCl 30 mL/30 mL/2 mL at 0° C. A solution of NaNO2 (0.200 g, 2.9 mmol) in water (10 mL) was added drop wise at 0° C., and the reaction mixture was stirred for 40 min, at the same temperature. A solution of CuCl (1.1 g, 11.1 mmol) in water (10 mL) was added drop wise at 0° C. The reaction mixture was heated to 90° C. for 2.0 h and the solvent was evaporated. The reaction mixture was extracted with EtOAc (3×50 mL), and the combined organic layers were washed with water (50 mL) followed by brine (50 mL). The solution was dried over Na2SO4, filtered and concentrated under reduced pressure to give a crude black oil. The oil was purified by chromatography over silica gel (hexane/EtOAc) to give ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate as yellow oil (1.1 g).

reactant | Ethyl 1-(6-amino-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate | 2.2 mmol, 1 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC)OCC1CC1 | C25H28F3NO3
reactant | NaNO2 | 2.9 mmol, 0.200 g | N(=O)[O-].[Na+]
reactant | MeCN H2O HCl | 30 mL | CC#N.O.Cl
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
catalyst | CuCl | 11.1 mmol, 1.1 g | Cl[Cu]
product | ethyl 1-(6-chloro-5-(cyclopropylmethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)cyclopentanecarboxylate | 1.1 g | ClC1=C(C=C(C=C1C1=CC=C(C=C1)C(F)(F)F)C1(CCCC1)C(=O)OCC)OCC1CC1 | C25H26ClF3O3
